US07897609B2
A suspension of 1-[4-amino-7-bromo-2-(ethoxymethyl)-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl]-2-methylpropan-2-ol (1.4 g, 3.55 mmol), 3,4-difluorophenylboronic acid (1.12 g, 7.10 mmol), potassium carbonate (1.62 g, 11.7 mmol), 1,2-dimethyoxyethane (DME)(13 mL), and water (7 mL) was stirred under nitrogen. Dichlorobis(triphenylphosphine)palladium(II)(0.025 g, 0.036 mmol) was added, and the suspension was heated at reflux for five hours, allowed to cool to room temperature, diluted with water (20 mL), and extracted with dichloromethane (50 mL). An emulsion formed. Solid sodium chloride was added to saturate the aqueous layer. The organic layer was then removed under reduced pressure. The aqueous layer was extracted with dichloromethane (4×50 mL); the third extraction was allowed to stand overnight. The combined organic extracts were dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The resulting brown solid (2.03 g) was dissolved in dichloromethane (45 mL), purified by automated flash chromatography (40+M silica cartridge, eluting with 3% to 10% methanol in ethyl acetate), and then triturated with acetonitrile. The resulting solid was isolated by filtration, washed with acetonitrile, and dried in a vacuum oven to provide 485 mg of 1-[4-amino-7-(3,4-difluorophenyl)-2-(ethoxymethyl)-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl]-2-methylpropan-2-ol as an off-white solid, mp 193-195° C.

reactant | 1-[4-amino-7-bromo-2-(ethoxymethyl)-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl]-2-methylpropan-2-ol | 3.55 mmol, 1.4 g | NC1=NC=2C=C(C=NC2C2=C1N=C(N2CC(C)(O)C)COCC)Br | C16H20BrN5O2
reactant | 3,4-difluorophenylboronic acid | 7.10 mmol, 1.12 g | FC=1C=C(C=CC1F)B(O)O | C6H5BF2O2
reactant | potassium carbonate | 11.7 mmol, 1.62 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | water | 20 mL | O | H2O
catalyst | Dichlorobis(triphenylphosphine)palladium(II) | 0.036 mmol, 0.025 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 7 mL | O | H2O
solvent | 1,2-dimethyoxyethane | 13 mL | COCCOC | C4H10O2
product | 1-[4-amino-7-(3,4-difluorophenyl)-2-(ethoxymethyl)-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl]-2-methylpropan-2-ol | 485 mg | NC1=NC=2C=C(C=NC2C2=C1N=C(N2CC(C)(O)C)COCC)C2=CC(=C(C=C2)F)F | C22H23F2N5O2
